US05558971
Using p-tert-butoxystyrene (77.6 g, 0.44 mole) and p-methoxystyrene (8.1 g, 0.06 mole), the polymerization and treatment were carried out in the same manner as described in Synthesis Example 1, (1), to give 77.1 g poly(p-tert-butoxystyrene/p-methoxystyrene) as white powder having Mw 20000 (GPC with polystyrene calibration). The polymer was found to have p-tert-butoxystyrene unit and p-methoxystyrene unit in a molar ratio of ca. 88:12 based on 1HNMR.

reactant | p-tert-butoxystyrene | 0.44 mole, 77.6 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | p-methoxystyrene | 0.06 mole, 8.1 g | COC1=CC=C(C=C)C=C1 | C9H10O
product | p-tert-butoxystyrene p-methoxystyrene | C(C)(C)(C)OC1=CC=C(C=C)C=C1.COC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C9H10O/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-3-8-4-6-9(10-2)7-5-8/h5-9H,1H2,2-4H3;3-7H,1H2,2H3
